* AD103 capstone - how long does the switch take?
*
* The DC sweep tells you where the inverter switches. It says nothing about
* how fast, because a DC sweep has no time in it. This deck adds the two
* things that make time matter: a real input edge, and a capacitor to drive.
*
* Three inverters, all with Wn = 1 um and a 10 fF load. The pull-up widths are
* the three candidates from the rest of this lab:
*
*   Wp = 1     naive
*   Wp = 2.5   matches the two SATURATION CURRENTS   (spice/drive.spice)
*   Wp = 3.5   centres the SWITCHING THRESHOLD       (spice/vtc_ratio.spice)
*
* .meas measures propagation delay the way a datasheet defines it: from the
* input crossing half the supply to the output crossing half the supply.
*   tphl = high-to-low at the OUTPUT (the NMOS pulling down)
*   tplh = low-to-high at the OUTPUT (the PMOS pulling up)
*
* Before you run it: which of the three do you think has the most equal pair?
*
*   ngspice -b spice/delay.spice

.lib $PDK_ROOT/sky130A/libs.tech/ngspice/sky130.lib.spice.tt.red tt

Vdd vdd 0 1.8
* 20 ps edges, 2 ns high, 4 ns period - fast enough that the edge is not the
* thing being measured, slow enough that the output settles between them.
Vin in 0 PULSE(0 1.8 1n 20p 20p 2n 4n)

XN1 o1 in 0   0   sky130_fd_pr__nfet_01v8 L=0.15 W=1
XP1 o1 in vdd vdd sky130_fd_pr__pfet_01v8 L=0.15 W=1
C1  o1 0 10f

XN2 o2 in 0   0   sky130_fd_pr__nfet_01v8 L=0.15 W=1
XP2 o2 in vdd vdd sky130_fd_pr__pfet_01v8 L=0.15 W=2.5
C2  o2 0 10f

XN3 o3 in 0   0   sky130_fd_pr__nfet_01v8 L=0.15 W=1
XP3 o3 in vdd vdd sky130_fd_pr__pfet_01v8 L=0.15 W=3.5
C3  o3 0 10f

.control
tran 1p 6n
meas tran tphl1 trig v(in) val=0.9 rise=1 targ v(o1) val=0.9 fall=1
meas tran tplh1 trig v(in) val=0.9 fall=1 targ v(o1) val=0.9 rise=1
meas tran tphl2 trig v(in) val=0.9 rise=1 targ v(o2) val=0.9 fall=1
meas tran tplh2 trig v(in) val=0.9 fall=1 targ v(o2) val=0.9 rise=1
meas tran tphl3 trig v(in) val=0.9 rise=1 targ v(o3) val=0.9 fall=1
meas tran tplh3 trig v(in) val=0.9 fall=1 targ v(o3) val=0.9 rise=1
wrdata results/delay.txt v(in) v(o1) v(o2) v(o3)
.endc
.end
